### ISSUE TITLE
Tractatus: formalize picture theory and isomorphism (TLP 2.15–2.174)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#10726]
## Context

The **picture theory of meaning** is the philosophical heart of the Tractatus. The current formalization captures *evaluation* (a proposition is true or false relative to a world) but not the deeper claim: a proposition *pictures* reality by sharing logical form with what it depicts. This is Layer 2 material — the spec says "annotate, don't formalize" — but we can capture a structural shadow of it.

## Key Tractatus propositions

- TLP 2.15: "That the elements of the picture are combined with one another in a definite way, represents that the things are so combined with one another."
- TLP 2.151: "The form of representation is the possibility that the things are combined with one another as are the elements of the picture."
- TLP 2.16: "In order to be a picture a fact must have something in common with what it pictures."
- TLP 2.17: "What the picture must have in common with reality in order to be able to represent it after its fashion — rightly or falsely — is its form of representation."
- TLP 2.174: "The picture, however, cannot place itself outside of its form of representation."
- TLP 4.014: "The gramophone record, the musical thought, the score, the waves of sound, all stand to one another in that internal relation of depicting that holds between language and the world."
- TLP 4.0141: "In the fact that there is a general rule by which the musician is able to read the symphony out of the score, and that there is a rule by which one could reconstruct the symphony from the line on a gramophone record... herein lies the internal similarity between these things which at first sight seem to be entirely different."

## Proposed formalization

The idea: formalize what it means for two structures to share "logical form" — i.e., to be related by a structure-preserving mapping.

```lean
-- A "picture" relates two proposition-languages via a mapping on their atomic elements
structure Picture (S₁ S₂ : Type) where
  -- The depicting relation: maps elements of the picture to elements of reality
  map : S₁ → S₂

-- Lift the picture to a proposition-translation
def Picture.translate (pic : Picture S₁ S₂) : Proposition S₁ → Proposition S₂
  | .elementary s => .elementary (pic.map s)
  | .neg p        => .neg (pic.translate p)
  | .conj p q     => .conj (pic.translate p) (pic.translate q)

-- The picture theorem: translation preserves truth (TLP 2.21)
-- "The picture agrees with reality or not"
-- More precisely: if the picture is faithful, truth is preserved
theorem picture_preserves_truth (pic : Picture S₁ S₂) 
    (p : Proposition S₁) (w : World S₂) :
    p.eval (fun s => w (pic.map s)) ↔ (pic.translate p).eval w := ...

-- Isomorphic pictures: if the map is bijective, the two languages 
-- have the same logical structure (TLP 2.16, 2.17)
theorem picture_iso_preserves_tautology (pic : Picture S₁ S₂) 
    (hinj : Function.Injective pic.map) (hsurj : Function.Surjective pic.map)
    (p : Proposition S₁) :
    IsTautology p ↔ IsTautology (pic.translate p) := ...
```

## Philosophical significance

This captures the structural analogy Wittgenstein draws (TLP 4.014–4.0141): a gramophone record, a musical score, and sound waves all share logical form despite being materially different. The `Picture` structure is the "general rule" by which one representation can be read off from another.

**[Interpretive caveat]** Wittgenstein claims the picture and what it depicts must share *logical form*, and that this sharing cannot itself be depicted (TLP 2.174: "The picture cannot place itself outside of its form of representation"). Our formalization *can* state this relationship — it's a Lean theorem about the `Picture` structure — which is precisely what Wittgenstein says can't be done. The annotation should discuss this honestly: we're working in the metalanguage, stating what the Tractatus claims can only be shown.

## Acceptance criteria

- [ ] \`Picture\` structure defined with a mapping between atomic types
- [ ] \`Picture.translate\` lifts the mapping to propositions
- [ ] Truth-preservation theorem proved
- [ ] Tautology-preservation for bijective pictures proved
- [ ] Annotations discuss the saying/showing tension (formalizing what Wittgenstein says cannot be formalized)
- [ ] At least one concrete example (e.g., renaming atomic propositions)

## Difficulty

Medium-hard. The proofs should go through by structural induction, similar to \`truth_functional_compositionality\`. The philosophical annotations are the harder part — they need to honestly address the self-referential tension.

**Comment by rjwalters** [comment]
## Curator Enhancement

Curating this issue per user request. The issue is already well-formed with clear acceptance criteria and a concrete code sketch. This comment adds technical implementation context, code integration details, proof strategy, and a structured test plan.

---

## Technical Context

### Codebase Integration Point

This work adds a new **Section 11: Picture Theory** to a single file:

- `/proofs/Proofs/TractatusOntology.lean` — all new Lean code goes here, between the current logical consequence section (#10727) and the closing ladder section (currently lines 366–394)
- `/src/data/proofs/tractatus-ontology/annotations.json` — new annotation entries for each new definition and theorem
- `/src/data/proofs/tractatus-ontology/meta.json` — update `lineCount`, `theoremCount`, `definitionCount`, `sorries` fields

The umbrella issue #10731 specifies that all Tractatus extensions go into the single existing file rather than creating new files. Picture theory is item 11 in the section ordering.

### What Already Exists (Do Not Duplicate)

The existing file provides all the foundations this issue needs:

```lean
-- Already in scope (namespace Tractatus):
def World := Sachverhalt → Prop                          -- line 68
inductive Proposition (S : Type) where ...               -- line 82
def Proposition.eval (p : Proposition S) (w : World S)  -- line 130
def IsTautology (p : Proposition S)                     -- line 148
theorem truth_functional_compositionality ...            -- line 218
```

The `Picture.translate` function proposed in the issue is essentially a map over the inductive `Proposition` type — the same structural induction pattern used in `truth_functional_compositionality` (lines 218–225). This gives a clear proof template.

---

## Implementation Guidance

### Recommended Lean Structure

Insert a new section block before the closing Section 9 (The Limits of Formalization):

```lean
-- ═══════════════════════════════════════════════════════════════
-- SECTION 11: Picture Theory (TLP 2.15–2.174)
-- ═══════════════════════════════════════════════════════════════

/-
TLP 2.15: "That the elements of the picture are combined with one another
           in a definite way, represents that the things are so combined."
TLP 2.16: "In order to be a picture a fact must have something in common
           with what it pictures."
TLP 2.17: "What the picture must have in common with reality in order to
           be able to represent it — rightly or falsely — is its form
           of representation."
TLP 2.174: "The picture cannot place itself outside of its form of
            representation."
-/

structure Picture (S₁ S₂ : Type) where
  map : S₁ → S₂

def Picture.translate (pic : Picture S₁ S₂) :
    Proposition S₁ → Proposition S₂
  | .elementary s => .elementary (pic.map s)
  | .neg p        => .neg (pic.translate p)
  | .conj p q     => .conj (pic.translate p) (pic.translate q)
```

### Proof Strategy for `picture_preserves_truth`

The key insight is that `translate` commutes with `eval` when the world is pulled back through `pic.map`. This follows by the same structural induction used in `truth_functional_compositionality`:

```lean
theorem picture_preserves_truth (pic : Picture S₁ S₂)
    (p : Proposition S₁) (w : World S₂) :
    p.eval (fun s => w (pic.map s)) ↔ (pic.translate p).eval w := by
  induction p with
  | elementary s => rfl
  | neg q ih     => simp [Proposition.eval]; exact ih.not
  | conj q r ihq ihr => simp [Proposition.eval]; exact ihq.and ihr
```

This proof is likely `rfl`-or-near-`rfl` on all three branches given how `eval` and `translate` are defined. The elementary case is definitional: `(fun s => w (pic.map s)) s` reduces to `w (pic.map s)`, which matches `.elementary (pic.map s)` evaluated in `w`.

### Proof Strategy for `picture_iso_preserves_tautology`

Bijectivity gives a world-correspondence. The forward direction: given any world `w₂ : World S₂`, construct the pulled-back world `fun s₁ => w₂ (pic.map s₁)` for `S₁`, apply `picture_preserves_truth`, and use surjectivity to cover all `S₂` worlds. The reverse direction is symmetric using `Function.Surjective.hasRightInverse` or direct case analysis:

```lean
theorem picture_iso_preserves_tautology (pic : Picture S₁ S₂)
    (hinj : Function.Injective pic.map)
    (hsurj : Function.Surjective pic.map)
    (p : Proposition S₁) :
    IsTautology p ↔ IsTautology (pic.translate p) := by
  constructor
  · intro h w₂
    rw [← picture_preserves_truth]
    exact h _
  · intro h w₁
    -- Need: for every w₁, p.eval w₁
    -- By picture_preserves_truth, p.eval w₁ ↔ (translate p).eval (some w₂)
    -- Construct w₂ via surjectivity
    ...
```

The reverse direction requires constructing a `w₂ : World S₂` from a `w₁ : World S₁`. With surjectivity, for each `s₂` there exists `s₁` with `pic.map s₁ = s₂`; define `w₂ s₂ := w₁ (Classical.choose (hsurj s₂))`. Then `w₁ s = w₂ (pic.map s)` holds when `pic.map` is injective (since `pic.map s` has unique preimage `s`). This is the algebraically careful direction; it will likely require `Classical.choose` and `Function.Injective.eq_iff`.

### Concrete Example (Required by Acceptance Criteria)

Add a concrete example using `Fin n` renaming:

```lean
/-- Renaming atomic propositions via a bijection preserves tautologies.
    Example: relabeling {p, q, r} as {a, b, c} changes nothing logically. -/
example : IsTautology
    (Proposition.disj (.elementary (0 : Fin 2)) (.neg (.elementary 0))) := by
  exact excluded_middle_tautology _

-- And the renamed version (via a swap picture) is equally a tautology:
def swapPic : Picture (Fin 2) (Fin 2) := ⟨fun i => 1 - i⟩
-- picture_iso_preserves_tautology applied here confirms the renamed version
```

A simpler concrete example is a constant-renaming picture `Picture α β` using a known bijection (e.g., between `Bool` and `Fin 2`, or between two propositional variable sets).

### TLP 2.174 Annotation Note

The issue correctly identifies the self-referential tension: TLP 2.174 says "The picture cannot place itself outside of its form of representation" — yet the `picture_iso_preserves_tautology` theorem does exactly that by stating the isomorphism relationship in the metalanguage. The annotation should make this explicit: we are working in Lean (the metalanguage) to state what the Tractatus claims can only be shown. This is intentional and honest, not a failure of the formalization.

---

## Affected Files

- `/proofs/Proofs/TractatusOntology.lean` — add Section 11 with `Picture` structure, `Picture.translate` definition, `picture_preserves_truth` theorem, `picture_iso_preserves_tautology` theorem, and at least one concrete example
- `/src/data/proofs/tractatus-ontology/annotations.json` — add 3–5 new annotation entries covering the `Picture` structure definition, `picture_preserves_truth`, `picture_iso_preserves_tautology`, the TLP 2.174 saying/showing tension, and the gramophone/score/sound-wave analogy (TLP 4.014–4.0141)
- `/src/data/proofs/tractatus-ontology/meta.json` — update `lineCount`, `theoremCount` (currently 15, add 2+), `definitionCount` (currently 8, add 2+), confirm `sorries` count

---

## Test Plan

- [ ] Manual verification: Run `./proofs/scripts/docker-build.sh Proofs.TractatusOntology` and confirm zero errors, no new sorries (current file has exactly 1 deliberate sorry for `proposition_seven`)
- [ ] Automated tests: No separate test files needed — Lean type-checking IS the test. Confirm `lake build` output (via Docker wrapper) shows the file compiles clean
- [ ] Picture preserves truth: Verify the elementary case is definitionally `rfl` or closes immediately; check negation and conjunction branches follow the same `ih.not` / `ihq.and ihr` pattern as `truth_functional_compositionality`
- [ ] Tautology preservation: Confirm both directions of `picture_iso_preserves_tautology` close; the reverse direction (reconstructing `w₂` from `w₁` via surjectivity) is the harder side — may need `Classical.choose` and `hinj` to establish the world correspondence
- [ ] Concrete example: At least one computable example (e.g., `Fin n` relabeling) demonstrating the picture relationship on a specific tautology
- [ ] Annotation quality: Annotations must explicitly address the TLP 2.174 self-reference tension — "the picture cannot place itself outside its form of representation" yet our Lean theorem does exactly that from the metalanguage
- [ ] meta.json consistency: `lineCount`, `theoremCount`, `definitionCount` updated to match the actual file after additions
- [ ] Gallery build: Run `pnpm build` and confirm no TypeScript/data errors from the updated annotation and meta files

## Dependencies

- [ ] #10721 — Verify Lean compilation via Docker build (BLOCKING — confirms the base file compiles before adding to it)
- [ ] #10727 — Logical consequence section (Section 10 in ordering) — not strictly blocking but should be inserted before Section 11 for TLP numbering coherence
